US04515791
6-(3-Fluoro-4-methoxyphenyl)-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one
A mixture comprising 4.0 g. of 3-chloro-6-(3-fluoro-4-methoxyphenyl)-pyridazine (U.S. Pat. No. 4,092,311), 3.54 g. of ethyl carbazate and 100 ml. of butanol is stirred at reflux for 3 days and then cooled in an ice bath. The resulting solid is collected by filtration and dried, giving 2.4 g. of the desired product as a tan solid, m.p. 289°-290° C.

reactant | 3-chloro-6-(3-fluoro-4-methoxyphenyl)-pyridazine | ClC=1N=NC(=CC1)C1=CC(=C(C=C1)OC)F | C11H8ClFN2O
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | butanol | C(CCC)O | C4H10O
product | 6-(3-Fluoro-4-methoxyphenyl)-1,2,4-triazolo[4,3-b]pyridazin-3(2H)-one | FC=1C=C(C=CC1OC)C=1C=CC=2N(N1)C(NN2)=O | C12H9FN4O2
